US05071853
3-[(2-Bromophenyl)methyl]tetrahydro-4H-thiopyran-4-one
In a manner similar to that described in Example 82, 1-(3,6-dihydro-2H-thiopyran-4-yl)-pyrrolidine (25.0 g, 0.15 mole) or as is in dioxane (100 ml) was treated with 2-bromobenzyl bromide (40.0 g, 0.16 mol) to give the title compound as a clear oil (16.3 g, 15%).

reactant | 1-(3,6-dihydro-2H-thiopyran-4-yl)-pyrrolidine | 0.15 mole, 25.0 g | S1CCC(=CC1)N1CCCC1 | C9H15NS
reactant | 2-bromobenzyl bromide | 0.16 mol, 40.0 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-[(2-Bromophenyl)methyl]tetrahydro-4H-thiopyran-4-one | 16.3 g, 15% | BrC1=C(C=CC=C1)CC1CSCCC1=O | C12H13BrOS
